US04107182
2,3-Dihydro-6-hydroxy-7-methoxy-5-benzofurancarboxaldehyde
A mixture of 2.49 g. (15 mmole) of 2.3-Dihydro-7-methoxy-6-benzofuranol, 5.87 g. (50 mmole) zinc cyanide and 100 ml. of dry ether was saturated with hydrogen chloride for 1 hour at 0°, then for 2 hours at room temperature. The mixture was then allowed to stand overnight at room temperature then concentrated in vacuo and the residue treated with 100 ml. of 0.1N HCl for 1 hour at reflux. After cooling, ether extraction provided the product which was purified by chromatography over silica gel (E. Merck 60), eluting with CHCl3, to yield a colorless solid, m.p. 71°-72°.

reactant | 2.3-Dihydro-7-methoxy-6-benzofuranol | 15 mmole | COC1=C(C=CC=2CCOC21)O | C9H10O3
reactant | hydrogen chloride | Cl | ClH
reactant | ether | CCOCC | C4H10O
catalyst | zinc cyanide | 50 mmole | [C-]#N.[Zn+2].[C-]#N
product | 2,3-Dihydro-6-hydroxy-7-methoxy-5-benzofurancarboxaldehyde | OC1=C(C2=C(CCO2)C=C1C=O)OC | C10H10O4
